US07566735B2
1-{4-[3-oxo-3-(1-pyrrolidinyl)propyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
The title compound was prepared from 1-[3-(4-bromophenyl)propanoyl]pyrrolidine and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 19.

reactant | 1-[3-(4-bromophenyl)propanoyl]pyrrolidine | BrC1=CC=C(C=C1)CCC(=O)N1CCCC1 | C13H16BrNO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | 1-{4-[3-oxo-3-(1-pyrrolidinyl)propyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | O=C(CCC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)N1CCCC1 | C21H24F3N3O
